US05536701
1-Methyl-3-(pentafluoroethyl)-1H-pyrazol-5-ol (0.44 g, 0.002 mole), 3-chloro-5-methoxypyridazine (0.29 g, 0.002 mole), and 2,6-lutidine (0.27 g, 0.0024 mole) were refluxed under N2 in toluene (8 mL) for 15 h. This mixture was poured into ethyl acetate and washed with 7% HCl, water and then with saturated sodium bicarbonate. The organic layer was dried (MgSO4), filtered through silica gel with ethyl acetate, and evaporated in vacuo to give 5-methoxy-3-[[1-methyl-3-(pentafluoroethyl)-1H-pyrazol-5-yl]oxy]pyridazine as a light yellow solid. The compound was recrystallized to give (0.45 g, 69% yield) Compound 18, a white solid.

reactant | 1-Methyl-3-(pentafluoroethyl)-1H-pyrazol-5-ol | 0.002 mole, 0.44 g | CN1N=C(C=C1O)C(C(F)(F)F)(F)F | C6H5F5N2O
reactant | 3-chloro-5-methoxypyridazine | 0.002 mole, 0.29 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | 2,6-lutidine | 0.0024 mole, 0.27 g | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methoxy-3-[[1-methyl-3-(pentafluoroethyl)-1H-pyrazol-5-yl]oxy]pyridazine | COC=1C=C(N=NC1)OC1=CC(=NN1C)C(C(F)(F)F)(F)F | C11H9F5N4O2
